US04565813
To a solution of 5-methyl-6-(4-pyridinyl)-2H-1,4-thiazin-3(4H)-one (5 g) in methanol (500 ml), 12N hydrochloric acid (4 ml) was added dropwise with stirring at room temperature. The reaction mixture was stirred at room temperature for 1 hour and then concentrated in vacuo. Tetrahydrofuran (200 ml) was added and the reaction mixture was stirred at room temperature for 10 minutes, and then filtered. The residue was recrystallized from ethanol to give 4.6 g of 5-methyl-6-(4-pyridinyl)-2H-1,4-thiazin-3(4H)-one hydrochloride as pale yellow needles.

reactant | 5-methyl-6-(4-pyridinyl)-2H-1,4-thiazin-3(4H)-one | 5 g | CC=1NC(CSC1C1=CC=NC=C1)=O | C10H10N2OS
reactant | hydrochloric acid | 12N, 4 ml | Cl | ClH
solvent | methanol | 500 ml | CO | CH4O
product | 5-methyl-6-(4-pyridinyl)-2H-1,4-thiazin-3(4H)-one hydrochloride | 4.6 g | Cl.CC=1NC(CSC1C1=CC=NC=C1)=O | InChI=1S/C10H10N2OS.ClH/c1-7-10(14-6-9(13)12-7)8-2-4-11-5-3-8;/h2-5H,6H2,1H3,(H,12,13);1H
